US05652239
a. 3,3'-Dibromohydrazobenzene
To a stirred solution of 50% NaOH (3.6 mL, 45 mM) was added 3-bromonitrobenzene (15 g, 74 mM) and the resulting solution was heated to 60° C. Zinc dust (11 g, 170 mM) was added in portions in such a manner as to keep the reaction temperature below 80° C. After the addition was complete, 20% NaOH (22 mL, 113 mM) was added followed by water (37 mL). An additional portion of zinc dust (14 g, 220 mM) was then added in one portion. The resulting mixture was heated at 70° C. for 1 hour, cooled to room temperature, and poured into ether (200 mL). The liquid was decanted away from the solids and the solids were resuspended in ether and this procedure was repeated an additional three times. The organic layers were combined, dried over Na2SO4, and concentrated. Purification by flash column chromatography afforded the titled compound as a white solid (10.1 g, 79%). NMR (CDCl3): 6.99 (m, 6H), 6.76 (dd, J1 =1 Hz, J2 =8 Hz), 5.66 (br s, 2H). MS(CI): 341/343(M+1).

reactant | NaOH | 45 mM, 3.6 mL | [OH-].[Na+]
reactant | 3-bromonitrobenzene | 74 mM, 15 g | BrC=1C=C(C=CC1)[N+](=O)[O-] | C6H4BrNO2
reactant | NaOH | 113 mM, 22 mL | [OH-].[Na+]
reactant | water | 37 mL | O | H2O
catalyst | Zinc | 170 mM, 11 g | [Zn] | Zn
catalyst | zinc | 220 mM, 14 g | [Zn] | Zn
solvent | ether | 200 mL | CCOCC | C4H10O
product | 3,3'-Dibromohydrazobenzene | 10.1 g, 79% | BrC=1C=C(C=CC1)NNC1=CC(=CC=C1)Br | C12H10Br2N2
